US04578503
A mixture of dimethyl(trifluoromethyl)malonate (4.0 g, 20 mmol), methyl vinyl ketone (1.54 g, 22 mmol), triethylamine (0.30 g, 3 mmol), and pyridine (20 ml) was heated for 4 h at 70° C. The reaction mixture was poured into water and worked up as usual. The adduct, dimethyl 1,1,1-trifluoro-5-oxo-2,2-hexanedicarboxylate (3.97 g), b.p. 88°-89° C./0.2 mmHg, was obtained and identified in a similar way.

reactant | dimethyl(trifluoromethyl)malonate | 20 mmol, 4.0 g | COC(C(C(=O)OC)C(F)(F)F)=O | C6H7F3O4
reactant | methyl vinyl ketone | 22 mmol, 1.54 g | C(=C)C(=O)C | C4H6O
reactant | triethylamine | 3 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | dimethyl 1,1,1-trifluoro-5-oxo-2,2-hexanedicarboxylate | 3.97 g | FC(C(CCC(C)=O)(C(=O)OC)C(=O)OC)(F)F | C10H13F3O5
